US20010027196A1
6-Furan-2-yl-5-iodo-N4-[2-(4-methoxy-phenyl)-ethyl]-pyrimidine-2,4-diamine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine and 2-(4-methoxyphenyl)ethylamine in dioxane. ES-MS m/e (%): 437 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | 2-(4-methoxyphenyl)ethylamine | COC1=CC=C(C=C1)CCN | C9H13NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-Furan-2-yl-5-iodo-N4-[2-(4-methoxy-phenyl)-ethyl]-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCCC1=CC=C(C=C1)OC)I | C17H17IN4O2
